### PR TITLE
[Merged by Bors] - feat(Multiset): add two lemmas relating Multiset.filter / Multiset.prod

### PR DESCRIPTION
**Pull request by Julian**
---

(I definitely have not internalized the Lean4 naming conventions fully, so it's possible the names need tweaking.)

I also think there probably is a more general version of the `prod` one for any `LeftCommutative f`, right? But I had a bit more trouble proving that, either there are some missing `foldr` lemmas or else I just wasn't able to.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Multiset/Basic.lean [hunk 1]
```diff
@@ -154,6 +154,16 @@ theorem pow_count [DecidableEq α] (a : α) : a ^ s.count a = (s.filter (Eq a)).
 #align multiset.pow_count Multiset.pow_count
 #align multiset.nsmul_count Multiset.nsmul_count
 
+@[to_additive]
+theorem filter_prod_mul_sub_filter_prod_eq_prod (p) [DecidableEq α] [DecidablePred p] :
+    (s.filter p).prod * (s - (s.filter p)).prod = s.prod := by
+  rw [sub_filter_eq_filter_not]
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Multiset/Basic.lean:160]: I think this would be better without the `-`:
```suggestion
    (s.filter p).prod * (s.filter (fun a ↦ ¬ p a)).prod = s.prod := by
```

I would guess you can prove it more concisely with a lemma that says `(s + t).prod = s.prod * t.prod`

File: Mathlib/Data/Multiset/Basic.lean [hunk 2]
```diff
@@ -2657,6 +2657,11 @@ theorem count_map_eq_count' [DecidableEq β] (f : α → β) (s : Multiset α) (
     contradiction
 #align multiset.count_map_eq_count' Multiset.count_map_eq_count'
 
+@[simp]
+theorem sub_filter_eq_filter_not [DecidableEq α] (p) [DecidablePred p] (s : Multiset α) :
+    (s - (s.filter p)) = s.filter (fun a ↦ ¬ p a) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Multiset/Basic.lean:2662]:
```suggestion
    s - s.filter p = s.filter (fun a ↦ ¬ p a) := by
```
but his is otherwise a good lemma.

File: Mathlib/Algebra/BigOperators/Multiset/Basic.lean (hunk 1 above)
Comment (Julian) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean]: Nice! Indeed!

File: Mathlib/Algebra/BigOperators/Multiset/Basic.lean [hunk 3]
```diff
@@ -153,6 +153,10 @@ theorem pow_count [DecidableEq α] (a : α) : a ^ s.count a = (s.filter (Eq a)).
 #align multiset.pow_count Multiset.pow_count
 #align multiset.nsmul_count Multiset.nsmul_count
 
+theorem filter_prod_mul_filter_neg (p) [DecidablePred p] :
```
Comment (urkud) [inline Mathlib/Algebra/BigOperators/Multiset/Basic.lean:156]: Finset lemma is called [Finset.prod_filter_mul_prod_filter_not](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Basic.html#Finset.prod_filter_mul_prod_filter_not)

Comment (Julian) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean]: Thanks!

File: Mathlib/Algebra/BigOperators/Multiset/Basic.lean [hunk 4]
```diff
@@ -128,6 +128,10 @@ theorem prod_nsmul (m : Multiset α) : ∀ n : ℕ, (n • m).prod = m.prod ^ n
   | n + 1 => by rw [add_nsmul, one_nsmul, pow_add, pow_one, prod_add, prod_nsmul m n]
 #align multiset.prod_nsmul Multiset.prod_nsmul
 
+theorem prod_filter_mul_prod_filter_not (p) [DecidablePred p] :
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Multiset/Basic.lean:131]: `@[to_additive]`?

Comment (Julian) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:131]: Indeed!

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
